US06384041B1
A solution of 3.35 g (20.5 mmol) of 1,7-dihydro-6-ethyl-4H-pyrrolo[2,3-d]pyrimidin-4-one in 187 mL of phosphorous oxychloride was heated to reflux for 4 hours. The reaction was cooled to ambient temperature and concentrated under vacuum. The residue was dissolved in 100 mL of methylene chloride and poured onto 100 g of ice. The mixture was neutralized to pH 7 by the addition of powdered potassium carbonate. After an additional 200 mL of methylene chloride and 200 mL of water were added, some solids remained and were removed by filtration. The solids were shown to be desired product by thin layer chromatography (silica, 19:1 methylene chloride-methanol). The solids were combined with the organic phase and concentrated to 4.0 g of brown residue. The residue was purified by flash chromatography (200 g of silica, 19:1 methylene chloride-methanol) to provide 2.50 g (67%) of 4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine as a white solid. nmr (500 MHz, dmso-d6) δ1.27 (t, J=7.5 Hz, 3H), 2.76 (q, J=7.5 Hz, 2H), 6.30 (s, 1H), 8.48 (s, 1H), 12.41 (s, 1H)

reactant | 1,7-dihydro-6-ethyl-4H-pyrrolo[2,3-d]pyrimidin-4-one | 20.5 mmol, 3.35 g | C(C)C1=CC2=C(NC=NC2=O)N1 | C8H9N3O
reactant | phosphorous oxychloride | 187 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 2.50 g, 67% | ClC1=C2C(NC=N1)=NC(=C2)CC | C8H8ClN3
